US08026257B2
tert-Butyl 4-(((1-methyl-6-(trifluoromethyl)-1H-indol-4-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate.
A solution of tert-butyl 4-phenyl-4-(((6-(trifluoromethyl)-1H-indol-4-yl)methoxy)methyl)piperidine-1-carboxylate (59 mg, 0.121 mmol) in tetrahydrofuran (5 ml) at 25° C. was treated with potassium tert-butoxide (13.6 mg, 0.121 mmol) and stirred for 5 minutes. Dimethyl sulfate (0.012 ml, 0.121 mmol) was added, the solution was stirred at 25° C. for 1 h, and then concentrated in vacuo. Column chromatography (ethyl acetate/hexanes gradient elution) afforded 45 mg (90%) as a colorless oil. Mass spec.: 503.17 (MH)+.

reactant | tert-butyl 4-phenyl-4-(((6-(trifluoromethyl)-1H-indol-4-yl)methoxy)methyl)piperidine-1-carboxylate | 0.121 mmol, 59 mg | C1(=CC=CC=C1)C1(CCN(CC1)C(=O)OC(C)(C)C)COCC1=C2C=CNC2=CC(=C1)C(F)(F)F | C27H31F3N2O3
reactant | potassium tert-butoxide | 0.121 mmol, 13.6 mg | CC(C)([O-])C.[K+]
reactant | Dimethyl sulfate | 0.121 mmol, 0.012 ml | S(=O)(=O)(OC)OC | C2H6O4S
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | tert-Butyl 4-(((1-methyl-6-(trifluoromethyl)-1H-indol-4-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate | CN1C=CC2=C(C=C(C=C12)C(F)(F)F)COCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C28H33F3N2O3
